US07569589B2
3-[cyano(morpholin-4-yl)methyl]benzonitrile (5 g, 22.0 mmol) was dissolved in 175 mL dry DMF and cooled to 0° C. Add sodium hydride (Aldrich, 0.58 g, 24.2 mmol) in one portion and stir for 25 minutes at 0° C. Add 2,4-dichloropyrimidine (Aldrich, 9.83 g, 66.0 mmol) in one portion. After 10 minutes, additional sodium hydride (1.16 g, 48.4 mmol) was added in one portion and the bath allowed to warm to room temperature. After 15 h, the reaction was quenched with water and partitioned between ethyl acetate and saturated sodium bicarbonate. The aqueous portion was extracted with ethyl acetate (2×). The combined organic portion was dried over sodium sulfate and concentrated in vacuo. The crude material was taken up in 175 mL of 70% (v/v) acetic acid/water and refluxed for 45 min. The reaction mixture was cooled to room temperature, diluted with water, then extracted with ethyl acetate (2×). The combined organic portion was washed with saturated sodium bicarbonate (1×), dried over sodium sulfate, and concentrated in vacuo. The crude material was purified by silica gel chromatography (3-35% ethyl acetate in hexanes) and the product-containing fractions concentrated in vacuo to give 3-[(2-chloropyrimidin-4-yl)carbonyl]benzonitrile (3.0 g, 56%). LRMS m/z (M+H) Calcd: 244.7, found 244.0.

reactant | 3-[cyano(morpholin-4-yl)methyl]benzonitrile | 22.0 mmol, 5 g | C(#N)C(C=1C=C(C#N)C=CC1)N1CCOCC1 | C13H13N3O
reactant | sodium hydride | 24.2 mmol, 0.58 g | [H-].[Na+]
reactant | 2,4-dichloropyrimidine | 66.0 mmol, 9.83 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | sodium hydride | 48.4 mmol, 1.16 g | [H-].[Na+]
reactant | DMF | 175 mL | CN(C)C=O | C3H7NO
product | 3-[(2-chloropyrimidin-4-yl)carbonyl]benzonitrile | 3.0 g, 56% | ClC1=NC=CC(=N1)C(=O)C=1C=C(C#N)C=CC1 | C12H6ClN3O
